US04265911
1. 5,8-Dihydro-1-naphthol
108 g (0.75 mol) of α-naphthol are placed in a 4 liter reactor. The round-bottomed flask is cooled in a bath of solid carbon dioxide and alcohol, and about 1 liter of liquid ammonia is introduced, whilst stirring vigorously. When the naphthol has almost dissolved, 20.9 g of lithium wire are added in small pieces and the mixture is then stirred for 1/2 hour. 170 ml of ethyl alcohol are then poured in dropwise. The round-bottomed flask is then left to warm up and nitrogen is bubbled into the mixture in order to drive off the ammonia. The grey pasty residue is taken up in 1 liter of water and the mixture is extracted 3 times with 100 ml of ether. The aqueous phase is cooled and acidified with concentrated HC1 until the pH is acid. The brown oil which has appeared is extracted 3 times with ether and the ether fraction is washed 3 times with water before being dried over magnesium sulphate. After filtration and evaporation to dryness, the solid is taken up in ether and the mixture is dried over MgSO4 in the presence of charcoal. The mixture is filtered and the filtrate is evaporated to dryness. A yellow solid is obtained. After recrystallisation, a white solid is finally obtained. Melting point=73°-74.5° C.

reactant | α-naphthol | 0.75 mol, 108 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | ammonia | N | H3N
reactant | naphthol | C=1C=CC=2C(C1)=CC=CC2O | C10H8O
reactant | lithium | 20.9 g | [Li] | Li
solvent | ethyl alcohol | 170 ml | C(C)O | C2H6O
product | 5,8-Dihydro-1-naphthol | C1(=CC=CC=2CC=CCC12)O | C10H10O
